US06211215B1
In substantially the same manner as in Reference Example 88, 3-(2-methoxy-5-pyridyl)propyl methanesulfonate was reacted with imidazole to give 5-[3-(1-imidazolyl)propyl]-2-methoxypyridine. The yield was 94%. Oily substance.

reactant | 3-(2-methoxy-5-pyridyl)propyl methanesulfonate | CS(=O)(=O)OCCCC=1C=CC(=NC1)OC | C10H15NO4S
reactant | imidazole | N1C=NC=C1 | C3H4N2
product | 5-[3-(1-imidazolyl)propyl]-2-methoxypyridine | yield was 94% | N1(C=NC=C1)CCCC=1C=CC(=NC1)OC | C12H15N3O
